Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ventral/Umbilical hernia
 
Major Surgical or Invasive Procedure:
Laparoscopic ventral/umbilical hernia repair with mesh

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of 
abnormal uterine bleeding and large ventral/umbilical hernia who 
presents to ___ on ___ for elective repair of ventral and 
umbilical hernia repair. Patient states that she is pain free, 
denies nausea, vomiting/fever/chills. Patient is otherwise obese 
but has no surgical history. 
 
Past Medical History:
Hypertension, essential 
HYPERCHOLESTEROLEMIA 
DCIS (ductal carcinoma in situ) of breast 
Carpal tunnel syndrome 
Anxiety 
Uterine leiomyoma 
High risk HPV infection 
Morbid obesity 
Ventral hernia 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
General: AAOx3, obese
HEENT: WNL
Respiratory: Breathing comfortably on room air
Abdomen: Soft, non-tender, no rebound or guarding, incisions 
clean/dry/intact. 
Skin: No lesions
 
Brief Hospital Course:
Ms. ___ was admitted to ___ s/p ventral/umbilical 
hernia repair. Her post-operative course was uncomplicated. She 
was transferred to the PACU in stable condition and was 
subsequently transferred to the ___ of ___ for care 
overnight. She had no issues overnight, she voided, with no 
complaints of nausea/emesis/fever/chills. 
On POD1, patient was seen by the surgical team and evaluated by 
Dr. ___. We felt that patient was stable to be discharged and 
will be seen in clinic. 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Citalopram 40 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0
6. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides 8.6 mg 1 by mouth twice a day Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Umbilical hernia/Ventral hernia

 
Discharge Condition:
Patient discharged in stable condition
No changes in mental status
Baseline ambulatory status

 
Discharge Instructions:
Ms. ___ you were admitted to the general surgery service on 
___ after undergoing an uncomplicated laparoscopic assisted 
ventral/umbilical hernia repair. This was proceeded by the 
Gynecology service during which they performed hysteroscopic 
endometrial resection and endometrial curettage. 
Now you will be ready to be discharged home. Here are the 
following discharge instructions.

Medications:
Please continue all home medications. You will be prescribed 
oral narcotics to go home with. Oxycodone should be taken every 
4 hours as needed for pain, you can take 1 pill (5mg) for pain 
level ___, and 2 pills for pain level ___. You should also 
taken Tylenol at 1gram every 6 hours. Please do not exceed the 
maximum 4grams per day. You will also be sent home on stool 
softening agents ( Colace and Senna) as one of the most common 
side effects of narcotics is constipation.

Activity:
You should continue all normal daily activities. However please 
avoid lifting weights ___ or greater for the next ___ days 
until follow up in clinic. However you are encouraged to 
ambulate.

Dressing:
Dressings can come off, however underneath the dressing you have 
___ which can usually stay on until they fall off on its 
own. However if they do not fall off on its own, then you can 
peel them off in 10 days.

Warning signs:
Fever>101.5
Nausea/Vomiting
Inability to tolerate oral intake
Abdominal pain out of proportion 
Chest pain/shortness of breath

If you experience any of the above complications, please come to 
the emergency department or call the surgical office. 
 
Followup Instructions:
___